US07863314B2
A. Preparation of 3-[5-Amino-4-(3-bromobenzoyl)-imidazol-1-yl]-N-cyclopropyl-4-methylbenzamide
To a solution of 3-bromo-1-iodobenzene (2.82g) in THF (20 mL) at −40° C. under N2 was added cyclohexylmagnesium chloride (2M in THF, 6 mL). The solution was kept at −40° C. to 0° C. for 20 min. then 3-(5-amino-4-cyano-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide (0.18g) was added and the reaction was kept at rt for 1 h. Then HCl (4 M, 20 mL) was added and the mixture was kept at rt for two days. The mixture was neutralized with K2CO3 solution and extracted with EtOAc (2×100 mL) and the combined organics dried over Na2SO4, and concentrated. Purification of the crude product by column chromatography (EtOAc) gave the desired product (0.15g, 54%). HPLC (4 minute 10-90 gradient) tR 1.85 min; MS m/z 438.10, 441.07 [M+H]+.

reactant | 3-bromo-1-iodobenzene | 2.82g | BrC=1C=C(C=CC1)I | C6H4BrI
reactant | cyclohexylmagnesium chloride | 2M, 6 mL | C1(CCCCC1)[Mg]Cl
reactant | 3-(5-amino-4-cyano-imidazol-1-yl)-N-cyclopropyl-4-methyl-benzamide | 0.18g | NC1=C(N=CN1C=1C=C(C(=O)NC2CC2)C=CC1C)C#N | C15H15N5O
reactant | HCl | 4 M, 20 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-[5-Amino-4-(3-bromobenzoyl)-imidazol-1-yl]-N-cyclopropyl-4-methylbenzamide | 0.15g, 54% | NC1=C(N=CN1C=1C=C(C(=O)NC2CC2)C=CC1C)C(C1=CC(=CC=C1)Br)=O | C21H19BrN4O2
